US04647560
7-Chloro-5-(4-chlorophenyl)-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
8.8 g (0.017 mole) of 5-(4-chlorophenyl)-7-chloro-1'-benzyloxycarbonyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one are suspended in 150 ml of petroleum either (boiling range: 60°-80° C.), and 10 ml of 38 percent strength HBr/glacial acetic acid solution are added at 20° C., with stirring. The reaction mixture is stirred at room temperature for 6 hours and the crystalline product is filtered off with suction and rinsed with petroleum ether. The product is dissolved in water and the aqueous solution is shaken with diethyl ether and rendered alkaline with concentrated aqueous ammonia solution. The base which separates out is taken up in methylene chloride and the organic phase is dried over Na2SO4 and filtered. After evaporating off the solvent, the base is obtained in form of pale yellow crystals.

reactant | 5-(4-chlorophenyl)-7-chloro-1'-benzyloxycarbonyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | 0.017 mole, 8.8 g | ClC1=CC=C(C=C1)C1=NC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C(NC2=C1C=C(C=C2)Cl)=O | C27H23Cl2N3O3
reactant | HBr | Br | BrH
product | 7-Chloro-5-(4-chlorophenyl)-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | ClC=1C=CC2=C(C(=NC3(CCNCC3)C(N2)=O)C2=CC=C(C=C2)Cl)C1 | C19H17Cl2N3O
